US06416733B1
1-(Benzyloxy)-4-ethyl-2-(4-fluorophenyl)-5-[(6-methyl-6-cyanoheptyl)oxy]-benzene was prepared as described in Example 1 for the synthesis of 1-(benzyloxy)-4-ethyl-2-(4-fluorophenyl)-5-[(5-methyl-5-cyanohexyl)oxy]-benzene substituting 6-cyano-6-methyl-1-bromoheptane for 5-cyano-5-methyl-1-bromohexane.

reactant | 1-(benzyloxy)-4-ethyl-2-(4-fluorophenyl)-5-[(5-methyl-5-cyanohexyl)oxy]-benzene | C(C1=CC=CC=C1)OC1=C(C=C(C(=C1)OCCCCC(C)(C#N)C)CC)C1=CC=C(C=C1)F | C29H32FNO2
reactant | 5-cyano-5-methyl-1-bromohexane | C(#N)C(CCCCBr)(C)C | C8H14BrN
product | 1-(Benzyloxy)-4-ethyl-2-(4-fluorophenyl)-5-[(6-methyl-6-cyanoheptyl)oxy]-benzene | C(C1=CC=CC=C1)OC1=C(C=C(C(=C1)OCCCCCC(C)(C#N)C)CC)C1=CC=C(C=C1)F | C30H34FNO2
